* C:\Users\mrsuh\AppData\Local\LTspice\mosfet simulation.asc
M1 Drain N002 0 NC_01 NMOS
VGS N003 0 9
VDS N001 0 12
R1 N003 N002 470
R2 N001 Drain 22
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mrsuh\AppData\Local\LTspice\lib\cmp\standard.mos
.dc VDS 0 25 1 VGS 0 9 1
.backanno
.end
